US04935432
To a solution of 1-[2-[5-[3,5-di-tert-butyl-4-{(2-methoxyethoxy)methoxy}phenyl]-(2E,4E)-2,4-pentadienoylamino]ethyl]-4-(3-indolyl)piperidine (0.5 g) in methanol (5 ml) was added dropwise methanesulfonic acid (0.26 ml) at 18°-25° C. After 2 hours the reaction mixture was adjusted to pH 7.5 with 2N-sodium hydroxide and then poured into saturated sodium bicarbonate solution (50 ml). The resulting precipitate was collected and washed with water. The precipitate was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol (20:1, V/V). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was recrystallized from 1,4-dioxane, to give white crystals of 1-[2-{5-(3,5-di-tert-butyl-4-hydroxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine (0.28 g).

reactant | 1-[2-[5-[3,5-di-tert-butyl-4-{(2-methoxyethoxy)methoxy}phenyl]-(2E,4E)-2,4-pentadienoylamino]ethyl]-4-(3-indolyl)piperidine | 0.5 g | C(C)(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C38H53N3O4
reactant | methanesulfonic acid | 0.26 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 1-[2-{5-(3,5-di-tert-butyl-4-hydroxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine | 0.28 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C34H45N3O2
